US07329662B2
5-(2,4-Difluoro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carbonitrile
Reaction of 1-(2,4-difluoro-phenyl)-4,4,4-trifluoro-butane-1,3-dione (252 mg, 1.0 mmol), prepared from commercially available 2,4-difluoro-acetophenone according to general procedure A, and 3-amino-4-cyano-pyrazole (108 mg, 1.0 mmol) according to general procedure B yielded the title compound as a light yellow solid (72 mg, 22%). MS (ISP) 325.0 [(M+H)+]; mp 149° C.

reactant | 1-(2,4-difluoro-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 1.0 mmol, 252 mg | FC1=C(C=CC(=C1)F)C(CC(C(F)(F)F)=O)=O | C10H5F5O2
reactant | 3-amino-4-cyano-pyrazole | 1.0 mmol, 108 mg | NC1=NNC=C1C#N | C4H4N4
product | 5-(2,4-Difluoro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 72 mg, 22% | FC1=C(C=CC(=C1)F)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#N | C14H5F5N4
